US08455500B2
Synthesis of 4-(5-bromo-4,6-dimethylpyridin-2-yloxy)-2-methylbutan-2-ol
According to a method described in [WO 2009/054423 pamphlet, (Production Example 37)], from 5-bromo-4,6-dimethyl-2-hydroxypyridine (1.50 g) and 3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate (2.11 g), the subject compound (1.50 g) was obtained as a colorless oil.

reactant | 5-bromo-4,6-dimethyl-2-hydroxypyridine | 1.50 g | BrC=1C(=CC(=NC1C)O)C | C7H8BrNO
reactant | 3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate | 2.11 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(C)(C)O | C12H18O4S
product | 4-(5-bromo-4,6-dimethylpyridin-2-yloxy)-2-methylbutan-2-ol | 1.50 g | BrC=1C(=CC(=NC1C)OCCC(C)(O)C)C | C12H18BrNO2
